US07897762B2
n-Butyllithium (1.6 M in hexane, 109 mL, 0.175 mol) was added dropwise to a −78° C. solution of 1-bromo-4-fluoro-2-methylbenzene (30 g, 0.16 mol) in THF (500 mL) under N2. After complete addition, the reaction mixture was stirred for 1 h at −78° C. The bright yellow solution was quickly cannulated to another flask containing a pre-cooled (−78° C.) solution of diethyl oxalate (27.8 g, 0.19 mol) in THF (400 mL). After stirring for another 30 min at −78° C., the reaction mixture was quenched by the addition of saturated NH4Cl solution (800 mL). The aqueous layer was extracted with EtOAc (3×400 mL) and the combined organics were dried (Na2SO4), concentrated in vacuo and purified via silica gel chromatography to provide ethyl 2-(4-fluoro-2-methylphenyl)-2-oxoacetate (22.0 g, yield, 66% yield). 1H NMR (400 MHz, CDCl3): δ 7.73 (dd, J=9.2, 5.6 Hz, 1 H), 7.02-6.96 (m, 2 H), 4.40 (m, 2 H), 2.60 (s, 3 H), 1.29 (t, J=6.8 Hz, 3 H). MS (ESI) m/z: 233.0 [M+Na]+

reactant | n-Butyllithium | 0.175 mol, 1.6 M, 109 mL | C(CCC)[Li]
reactant | 1-bromo-4-fluoro-2-methylbenzene | 0.16 mol, 30 g | BrC1=C(C=C(C=C1)F)C | C7H6BrF
reactant | diethyl oxalate | 0.19 mol, 27.8 g | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | ethyl 2-(4-fluoro-2-methylphenyl)-2-oxoacetate | 22.0 g, 66% yield | FC1=CC(=C(C=C1)C(C(=O)OCC)=O)C | C11H11FO3
